US09428470B2
B) 4-(3-(Benzyloxy)-3-oxopropyl)-3-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl 4-carbamimidamidobenzoate
4-Carbamimidamidobenzoyl chloride hydrochloride (96 mg) was added to a mixture of benzyl 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoate (227 mg), pyridine (0.2 mL), and NMP (0.2 mL) at 50 C, and the obtained mixture was stirred at 50 C for 30 minutes. 4-Carbamimidamidobenzoyl chloride hydrochloride (96 mg) was further added thereto, and the obtained mixture was stirred overnight at 50 C. To the reaction mixture, acetonitrile was added. The precipitate was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane, subsequently methanol/ethyl acetate) to obtain the title compound (163 mg).

reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 96 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | benzyl 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoate | 227 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)OCC1=CC=CC=C1)CC(OC(C)(C)C)=O)=O | C31H39NO8
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | NMP | 0.2 mL | CN1CCCC1=O | C5H9NO
reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 96 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(3-(Benzyloxy)-3-oxopropyl)-3-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl 4-carbamimidamidobenzoate | 163 mg | N(C(=N)N)C1=CC=C(C(=O)OC2=CC(=C(C=C2)CCC(=O)OCC2=CC=CC=C2)C2=NOC(C2)(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)C=C1 | C39H46N4O9
